data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5447,"N.N[CH:1]=[NH2+:2].[C-]#N.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9539,"C[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,2916,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-:1])C=C1.O=C1CCC2CCC[C:2]3=[O+:3]C(O)C1[C:4]23[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7679,"O=[N+]([O-])C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,763,"C1CC[NH:1]C1.C=C1CCCC2C[C:2](=[N+:3]3CCCC3)[CH:4]([H:5])CC12.O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,9949,"CCO[C:1]1=[CH:2]C=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,309,"C1=CC2=C(C=C1)C(=[O:1])CN2.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5250,"CC1(O)C2=C(C=CC=C2)NC(=O)C(CC2=CC=CC=C2)[NH+:1]1[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2310,"C[Si-:1](C)(C)(F)[C:2]1=[C:3]([O:4]S(=O)(=O)C(F)(F)F)C=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2887,"CCOC1([OH:1])C=C(O)C(C)(C)CC1.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7034,"CS(=O)(=O)[O:1][Si-:2](C)(C)(C)Br|((2, 1), 1)"
train,pmechdb_split_0,0,6432,"CC(C)(O)[O:1]CCO.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3831,"CC[O:1][H:2].C[C:3](=[CH:4]CC1CCCCC1=O)[O-:5]|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2935,"O[CH:1]([OH:2])[SH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,460,"CCCCC(=O)C1CCC2C3CCC4CC([O-:1])CCC4(C)C3CCC12C.CCCC[P+:2](CCCC)(CCCC)SC1=CC=C(Cl)C=C1.O=C1CCC(=O)N1|(1, 2)"
train,pmechdb_split_0,0,7700,"CN[C:1](O)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6661,"CO[C:1](O)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5079,"CC(=O)OC1=C2OC3C(=O)CCC4(OC(C)=O)C5CC(=C2C34CC[N+]5(C)[C:1](=[N-:2])[Br:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8741,"[CH2:1]([OH:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1785,"CC1CC2OC(C)(C)OCC23C(C[O:1][H:2])CCCC3C1(C)C1CC2CCOC2O1.S=C=S.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4708,"CCC(=O)[O:1][C:2](O)(CC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8134,"CN1C2=CC=[C:1]([CH:2]([OH:3])[O:4][OH2+:5])C=C2C2=C1C=CC=C2.CO|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,453,"CC(C)(C(=O)C1CCCC2=C(C=CC=C2)[C:1]1=[OH+:2])[O-:3].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1095,"C[CH:1]([H:2])[C:3](C)(Br)[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9403,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CC1=CC=CC=C1.CCOC(=O)C1([OH:3])COC2=C1C(=O)CC(C)(C)C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3201,"CC(C)NC(C)C.CC(CC(C)C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)C(=O)N(C)C(C)C(C1=CC=CC=C1)[OH+:1][Li-:2][OH].[I-].[Li][NH+](C(C)C)C(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,5569,"C=CCCC(CCCCC(=O)[O-])[C:1](OCC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5909,"CC(C)(C)O[C:1]([CH:2]=[CH:3]CCC[CH2:4][Li:5])=[O:6].CCCCI|((5, 4), 3);((3, 2), 1);((1, 6), 6)"
train,pmechdb_split_0,0,3941,"CC(O)C1CCCC[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5296,"C=C[C:1](C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7621,"C1C[O:1]CCO1.CC(C)CC([OH2+])CC1CCCCC1.CC(C)C[CH:2](CC1CCCCC1)[O:3]S(=O)Cl.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2384,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].CC1CC=CC(=O)C1C(C1=CCCN2C(=O)CCC12)[OH:2]|(2, 1)"
train,pmechdb_split_0,0,603,"Cl[P+:1](Cl)(Cl)[Mg][I].[I][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,3160,"C=C[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH2]CCC.CCC(C)C=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,3786,"COC(C=[O:1])C1CCCCC1.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6945,"CCCC[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2825,"CC(C)[CH2][Al:1]([CH2]C(C)C)[O]C(=CCC1=CC=CC=C1)C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,4694,"CCOC(CCCCCCC(C)=O)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1882,"CC(=O)CCC=C=[N-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,824,"CN(C)[Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,519,"C=C1CCC2(OCOCCOC)C(=CCC3(C)C(O[Si](C)(C)C(C)(C)C)CCC23)C=C1C(OC(C)=O)C(C[OH:1])OC(C)=O.CC(=O)O[I+:2]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,2609,"C[C:1]1=[C:2]([OH:3])C=CO1.O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,627,"C1=COC(C[NH2:1])=C1.CC(=O)CC[C:2](C)=[O:3].O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2398,"CC1[OH+][Si-:1](C)(C)(C)[O+:2]=C1C1=CC=CC=C1.O=C([O-])C1=CC=CC(Cl)=C1|((1, 2), 2)"
train,pmechdb_split_0,0,4781,"CC(C)[N-:1]C(C)C.CN(C)C(=O)C=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5733,"CC1=CC2C(C)(CCC1)C([O][Sn-]([Cl])([Cl])([Cl])[Cl])C[C:1]2([H:2])[C+:3](C)C.Cl|((1, 2), 3)"
train,pmechdb_split_0,0,2362,"C=C(C)[O-:1].O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
